US04645836
N-(2-acetyl-4,5-dimethoxyphenyl)-β-alanine
A mixture of 2-amino-4,5-dimethoxyacetophenone (910 g, 4.66 mol), acrylic acid (730 ml., 10.67 mol), and acetic acid (2100 ml) was heated at 90° C. for 2 hours. Following treatment with Darco and hot filtration, the product was precipitated by the addition of water (2475 ml) over a 1 hour period. The reaction mixture was cooled and the product was filtered and washed with cold distilled water (4×90 ml) and cold methanol (1×600 ml). Drying under vacuum at 60° C. gave 1049 g (84%) of the product as a yellow powder, mp 149.5°-151.5° C. NMR (CDCl3) δ 2.50 (s, 3H, ArCOCH3), 2.73 (t, 2H, CH2 --CO2H), 3.57 (t, 2H, N--CH2), 3.82 (s, 3H, CH3OAr), 3.93 (s, 3H, CH3OAr), 6.18 (s, 1H, ArH), 7.13 (s, 1H, ArH), 10.05 (broad s, 2H, NH, COOH).

reactant | 2-amino-4,5-dimethoxyacetophenone | 4.66 mol, 910 g | CC(=O)C1=CC(=C(C=C1N)OC)OC | C10H13NO3
reactant | acrylic acid | 10.67 mol, 730 ml | C(C=C)(=O)O | C3H4O2
solvent | acetic acid | 2100 ml | C(C)(=O)O | C2H4O2
product | N-(2-acetyl-4,5-dimethoxyphenyl)-β-alanine | 1049 g, 84% | C(C)(=O)C1=C(C=C(C(=C1)OC)OC)NCCC(=O)O | C13H17NO5
